US09193669B2
A mixture of (E)-N-(cyclohexylmethyl)-2,2,2-trifluoro-N-(3-(3-(2,2,2-trifluoroacetamido)prop-1-enyl)phenyl)acetamide (0.2 g, 0.45 mmol) and K2CO3 (0.19 g, 1.37 mmol) in MeOH:H2O was stirred at room temperature for 24 h and then at 50° C. for 16 h. The solvent was removed under reduced pressure. Purification by column chromatography (5% to 10% MeOH—CH2Cl2 gradient) gave 3-(3-aminoprop-1-enyl)-N-(cyclohexylmethyl)aniline as pale brown semi-solid. Yield (0.06 g, 54%); 1H NMR (400 MHz, DMSO-d6) δ 6.99 (t, J=8.0 Hz, 1H), 6.54-6.53 (m, 2H), 6.44 (d, J=7.2 Hz, 1H), 6.42 (d, J=16.0 Hz, 1H), 6.22-6.15 (m, 1H), 5.58 (t, J=5.8 Hz, 1H), 3.34 (d, J=5.2 Hz, 2H), 2.83 (t, J=5.8 Hz, 2H), 1.80-1.77 (m, 2H), 1.70-1.56 (m, 3H), 1.54-1.49 (m, 1H), 1.18-1.12 (m, 3H), 0.97-0.91 (m, 2H); RP-HPLC (Method 4) tR=5.30 min, 96.10% (AUC); ESI MS m/z 245.26 [M+H]+.

reactant | (E)-N-(cyclohexylmethyl)-2,2,2-trifluoro-N-(3-(3-(2,2,2-trifluoroacetamido)prop-1-enyl)phenyl)acetamide | 0.45 mmol, 0.2 g | C1(CCCCC1)CN(C(C(F)(F)F)=O)C1=CC(=CC=C1)\C=C\CNC(C(F)(F)F)=O | C20H22F6N2O2
reactant | K2CO3 | 1.37 mmol, 0.19 g | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | O | H2O
solvent | MeOH | CO | CH4O
product | 3-(3-aminoprop-1-enyl)-N-(cyclohexylmethyl)aniline | NCC=CC=1C=C(NCC2CCCCC2)C=CC1 | C16H24N2
